US06288086B1
1-Benzyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method outlined in example 83 starting from [4-(4-chloro-phenoxy)-benzenesulfonyl]-acetic acid ethyl ester (6 g, 16.9 mmol) and bis-(2-chloro-ethyl)-benzyl amine (6.44 g, 24 mmol). Yield 2.21 g (25%); yellow oil; MS: 513.9 (M+H)+

reactant | [4-(4-chloro-phenoxy)-benzenesulfonyl]-acetic acid ethyl ester | 16.9 mmol, 6 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C16H15ClO5S
reactant | bis-(2-chloro-ethyl)-benzyl amine | 24 mmol, 6.44 g | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
product | 1-Benzyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C27H28ClNO5S
